US04952690
2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy -2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid p-nitrobenzyl ester
786 mg of triphenylphosphine and 3 g of poly-Hunig base are added to a solution of 960 mg of 2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester in 40 ml of dioxan and the mixture is stirred overnight at 50° under nitrogen. The poly-Hunig base is removed by filtration and the filtrate is concentrated by evaporation in vacuo. The residue is chromatographed over silica gel with toluene/ethyl acetate (9:1, 4:1 and 1:1) and yields the title compound. IR spectrum (in methylene chloride): characteristic absorption bands at 5.7, 5.9, 6.17, 6.55 and 7.45 μ.

reactant | triphenylphosphine | 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester | 960 mg | [N+](=O)([O-])C1=CC=C(COC(C(Cl)N2C([C@@H]([C@H]2SC(C)=O)OC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C22H19ClN2O9S
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | 2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy -2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N2C([C@@H]([C@H]2SC(C)=O)OC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C40H33N2O9PS
